US06265400B1
Part A. C-(4-Cyanophenyl)-N-methylnitrone
A mixture of 4-cyanobenzaldehyde (3.3 g, 25.2 mmol), N-methylhydroxyamine hydrogen chloride and sodium bicarbonate (4.23 g, 50.4 mmol) in dry methylene chloride (80 ml) was stirred at rt for 5 hrs. The solid portion was filtered off and the filtrate was concentrated to give the product as white solid (98% yield). 1H NMR (300 MHz, CDCl3) δ3.94(s, 3H), 7.46(s, 1H), 7.72(d, J=8 Hz, 2H), 8.32(d, J=8 Hz, 2H). MS (NH3-CI) Calc. for (M+1)+: 161. Found: 161.

reactant | 4-cyanobenzaldehyde | 25.2 mmol, 3.3 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | N-methylhydroxyamine hydrogen chloride | Cl.CNO
reactant | sodium bicarbonate | 50.4 mmol, 4.23 g | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | C-(4-Cyanophenyl)-N-methylnitrone | 98% yield | C(#N)C1=CC=C(C=C1)C=[N+]([O-])C | C9H8N2O
